US05025006
To a stirred solution of 1.07 g (3.67 mmole) of 3-bromo-4-acetoxybiphenyl in 10 mL methanol at ambient temperature under a nitrogen atmosphere was added 0.92 mL of 4.4 M sodium methoxide in methanol solution (4 mmole). The mixture was stirred for 20 minutes and partitioned between Et2O/ice-H2O/2N HCl (aq.) and the organic phase separated, washed with saturated NaCl solution, and then ice-H2O/saturated NaHCO3 (aq) solution, dried over Na2SO4, filtered, and evaporated. The product was dried in vacuo to give 1.05 g of crude 3-bromo-4'-hydroxybiphenyl which was used without further purification.

reactant | 3-bromo-4-acetoxybiphenyl | 3.67 mmole, 1.07 g | BrC=1C=C(C=CC1OC(C)=O)C1=CC=CC=C1 | C14H11BrO2
reactant | sodium methoxide | 4.4 M, 0.92 mL | C[O-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | methanol | 4 mmole | CO | CH4O
product | 3-bromo-4'-hydroxybiphenyl | 1.05 g | BrC=1C=C(C=CC1)C1=CC=C(C=C1)O | C12H9BrO
